US05219847
II-5-1: Synthesis of 4-undecanoylpyridine
To 50 ml of anhydrous ether was added 1.22 g of magnesium for Grignard reaction, and 11.0 g of 1-bromodecane was added to the mixture while stirring. After the magnesium was completely dissolved, a diethyl ether solution of 5.20 g (50 mmol) of 3-cyanopyridine was added dropwise, and the mixture refluxed for 4 hours. After cooling, saturated ammonium chloride solution was added, the diethyl ether layer was separated, and the aqueous layer was further extracted with diethyl ether. The ether layers were combined, washed with water, and then dried over anhydrous sodium sulfate. After concentration under a reduced pressure, the residue was purified by separation by silica gel chromatography (ethyl acetate:hexane=1:4) to give 7.20 g of the desired product (yield 58.3%).

reactant | magnesium | 1.22 g | [Mg] | Mg
reactant | 1-bromodecane | 11.0 g | BrCCCCCCCCCC | C10H21Br
reactant | 3-cyanopyridine | 50 mmol, 5.20 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | ether | 50 ml | CCOCC | C4H10O
product | 4-undecanoylpyridine | 7.20 g, yield 58.3% | C(CCCCCCCCCC)(=O)C1=CC=NC=C1 | C16H25NO
